US04800201
Preparation of 2-hydroxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
2-(3-Chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (1.37 g) and water (1 ml) were dissolved in acetone (20 ml) and the mixture was stirred at 70° C. for 44 hours. The mixture was chromatographed on silica gel (Wakogel C-200) column, using chloroform-methanol (=30:1) as an eluant to give the titled compound (0.16 g, yield 19.1%) as red needles.

reactant | 2-(3-Chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 1.37 g | ClC=1C=C(C(=O)OC2SC(=C(NC2=O)C)C2=CC=NC=C2)C=CC1 | C17H13ClN2O3S
reactant | water | 1 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-hydroxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.16 g, yield 19.1% | OC1SC(=C(NC1=O)C)C1=CC=NC=C1 | C10H10N2O2S
